US06136823
Synthesis of Ethyl 7-Amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
Palladium hydroxide-carbon (180 mg) was added to a solution of ethyl 7-azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.75 g) in methanol (9 ml), and the mixture was stirred at room temperature for 2.5 hours in a hydrogen atmosphere. The catalyst was removed by filtration through a membrane filter, and the solvent in the filtrate was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel to conduct elution with chloroform, thereby obtaining the title compound (1.75 g) as a brown oil.

reactant | ethyl 7-azido-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.75 g | N(=[N+]=[N-])C1=C(C(=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)C)F | C24H21ClF3N5O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 9 ml | CO | CH4O
catalyst | Palladium hydroxide carbon | 180 mg | [OH-].[Pd+2].[OH-].[C]
product | Ethyl 7-Amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.75 g | NC1=C(C(=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)C)F | C24H23ClF3N3O5
